US07714009B2
(3-Nitrophenyl)thiourea
To 7.20 g (40 mmol) of 3-nitrophenylisothiocyanate in 25 mL of methanol was added 28.5 mL (200 mmol) of 7 N ammonia in methanol. After 30 min., the slurry was concentrated to give 7.9 g (100%) of the title compound as a yellow-orange powder that did not require further purification.

reactant | 3-nitrophenylisothiocyanate | 40 mmol, 7.20 g | [N+](=O)([O-])C=1C=C(C=CC1)N=C=S | C7H4N2O2S
reactant | ammonia | 200 mmol, 7 N, 28.5 mL | N | H3N
solvent | methanol | 25 mL | CO | CH4O
product | (3-Nitrophenyl)thiourea | 7.9 g, 100% | [N+](=O)([O-])C=1C=C(C=CC1)NC(=S)N | C7H7N3O2S
